US06784167B2
To a solution of (±)-(4R*,5R*)-5-[(1S*)(5-bromo(2-thienyl))hydroxymethyl]-1-methyl-4-phenylpyrrolidin-2-one (300 mg, 0.82 mmol) in 1,2-dimethoxyethane (2.8 mL) was added 3-chloro-4-fluorobenzeneboronic acid (85.9 mg, 1.07 mmol), followed by a 1M Na2CO3 solution (2.2 mL). A catalytic amount of Pd(PPh3)4 was added and the reaction mixture was heated at the reflux temperature for 3 h, then allowed to cool to room temperature and poured onto a mixture of ice and CH2Cl2. The resulting mixture was extracted with CH2Cl2, dried (MgSO4) and concentrated under reduced pressure. The crude product was triturated (Et2O/ cyclohexane) to give (±)-(4R*,5R*)-5-{(1S*)[5-(3-chloro-4-fluorophenyl)(2-thienyl)]hydroxymethyl}-1-methyl-4-phenylpyrrolidin-2-one (235 mg, 69%): mp 194° C.; TLC (EtOAc) Rf 0.47

reactant | (±)-(4R*,5R*)-5-[(1S*)(5-bromo(2-thienyl))hydroxymethyl]-1-methyl-4-phenylpyrrolidin-2-one | 0.82 mmol, 300 mg | BrC1=CC=C(S1)[C@H]([C@H]1[C@H](CC(N1C)=O)C1=CC=CC=C1)O | C16H16BrNO2S
reactant | 3-chloro-4-fluorobenzeneboronic acid | 1.07 mmol, 85.9 mg | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | Na2CO3 | 1M, 2.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | 1,2-dimethoxyethane | 2.8 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (±)-(4R*,5R*)-5-{(1S*)[5-(3-chloro-4-fluorophenyl)(2-thienyl)]hydroxymethyl}-1-methyl-4-phenylpyrrolidin-2-one | 235 mg, 69% | ClC=1C=C(C=CC1F)C1=CC=C(S1)[C@H]([C@H]1[C@H](CC(N1C)=O)C1=CC=CC=C1)O | C22H19ClFNO2S
